US04873236
5,11-Dihydro-11-[[[2-[3-[2-(piperidin-l-yl)ethyl]-piperidin-l-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride
Prepared analogously to Example 46 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[3-[2-(piperidin-l-yl)ethyl]-piperidin-l-yl]ethanamine in a yield of 43% of theory. The dihydrochloride melted at 204°-208° C.

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[3-[2-(piperidin-l-yl)ethyl]-piperidin-l-yl]ethanamine | N1(CCCCC1)CCC1CN(CCC1)CCN | C14H29N3
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 5,11-Dihydro-11-[[[2-[3-[2-(piperidin-l-yl)ethyl]-piperidin-l-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride | yield of 43% | Cl.Cl.N1(CCCCC1)CCC1CN(CCC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C27H36N6O2.2ClH/c34-26-22-9-2-3-11-24(22)33(25-23(30-26)10-6-13-28-25)27(35)29-14-19-32-17-7-8-21(20-32)12-18-31-15-4-1-5-16-31;;/h2-3,6,9-11,13,21H,1,4-5,7-8,12,14-20H2,(H,29,35)(H,30,34);2*1H
